data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8731,"CC(C)O.CC1=C(CCO)SC(C(C2=CC=CS2)(C(C2=CC3=C(C=C2)OCO3)[CH:1]=[C:2](C2=CC=CS2)[O-:3])[O:4][H:5])=[N+]1CC1=CC=CC=C1.CC[NH+](CC)CC.[Cl-]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3420,"O=C(O)C1=CC=CC=C1[NH2:1].[N:2]#[O+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9119,"C[C+:1]=O.O=[N+]([O-])C1=CC=C2C(=C1)C=C[CH:2]=[CH:3]2|((2, 3), 1)"
train,pmechdb_split_0,0,6769,"C=CC1=C([NH+:1](C([O-])(OC(=O)OC(C)(C)C)[N+]2=CC=C(N(C)C)C=C2)[H:2])C=CC=C1.CC(C)(C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,814,"CC[OH+][Na].ClCC[CH2:1][Br:2].N#CC1=CC=CC([O-:3])=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2884,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])NC=C[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,957,"C[CH:1]1C[Br+:2]1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1327,"CC(C)[O-].CC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(C)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1608,"C=CC(O)(O)[N:1](CC)CC.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6138,"CC(C)[O-].CCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(C2CCCCC2)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1192,"O=C1NC(=C([N+](=O)[O-])[N+](=O)[O-])N[C:1](=[OH+:2])C1([N+](=O)[O-])[N+](=O)[O-].O=S(=O)([O-])O.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7785,"CSC=[O:1].[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,4702,"CC(N[C:1](=[OH+:2])[O:3][C:4](C)(C)C)C(=O)NCCC(=O)O.O=C([O-])C(F)(F)F.[Cl-]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4651,"C1=CC=NC=C1.CC(=O)O[C:1](C)=[O:2].COC(CN1C(=O)C(C(=O)N[OH:3])=CN=C1C1=CC=CC=C1)OC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4270,"CC1C[CH+:1][CH2:2][Si-:3]2(Cl)(O1)N(C)CCN2C|((3, 2), 1)"
train,pmechdb_split_0,0,3252,"C=[C:1]=[CH:2][CH2:3][B-:4]1([O+:5]=[CH:6]CC2(C)C(C)CCC3(C)C(COCC4=CC=C(OC)C=C4)=CCCC32)OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1|((4, 3), 2);((2, 1), 6);((6, 5), 5)"
train,pmechdb_split_0,0,8333,"CC1=C[CH+:1][C:2]([N+](=O)[O-])([H:3])O1.O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7990,"N#[C-:1].[CH2:2]=[CH:3][CH:4]=[O:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9263,"CCCCCCCCC=CCCCCCCCC(=O)OC(NC1CCCCC1)=[N:1]C1CCCCC1.CCCCCCCCC=CCCCCCCCC(=O)[O:2][H:3].CN(C)C1=CC=NC=C1.OCC1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2290,"COC1=C(OC)C=C2C(=C1)OC1=C(C=CC=C1OCC1=CC=CC=C1)C2CN(C)C(=O)C[S+](C)O[C:1](C(F)(F)F)([O-:2])[O:3]C(=O)C(F)(F)F|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5850,"C=CC1=C(C(=O)[O:1][H:2])N2C(=O)C(NC(=O)CC3=CC=CC=C3)C2SC1.CCOC(=O)NN(C(OCC)=[O:3])P(OCC(NC(=O)OC(C)(C)C)C(=O)OC(C)C)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3258,"CC#[C-:1].C[C:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6262,"CC(C)(Cl)[CH:1]=[O:2].COC(=O)[CH-:3]C(=O)OC.O=C([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8318,"CC(=C[C:1](C)=[OH+:2])[NH:3][C:4]1=[CH:5]C=CC2=C1N=CN2.CC(=O)[O-].O|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7418,"C1=CN=C([CH2-:1])C=C1.CCO[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8417,"CC(=O)C1=CO[C:1]([N+](=O)[O-])([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1190,"CCCC1C(CC)CC(C2CCCC2)CC(C2CCCCC2)C[CH:1]([O:2]S(=O)(=O)C2=CC=C(C)C=C2)CC1CC|((1, 2), 2)"
train,pmechdb_split_0,0,2187,"CC1(C2=CC=CC=C2)CCCC[CH:1]=[C:2]1C.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2169,"CC1(CCC(C)(O)[N+:1]2([H:2])CCCC2C(=O)[O-:3])C(=O)CCC1=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8936,"CN(C)[P+:1]1(N=N[N-:2]C2=CC=CC=C2)OC2=C(C=CC=C2)O1|(2, 1)"
train,pmechdb_split_0,0,1019,"CCOC(=O)C(=O)CC(C1=CC=CC=C1)[C:1](C1=CC=CO1)([C:2]1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2C(F)CC(C(C)C)N21)[O-:3].CC[NH+](C(C)C)C(C)C.F[B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4934,"O.O=C[O:1][H:2].OCCC[O:3]C(O)CCC1=C(Br)C=NC=N1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8021,"CCC(C)O[Si:1](C)(C)C.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,3593,"CC1=CC=C(S(=O)(=O)OC(C)CCC[OH:1])C=C1.Cl[P:2](Cl)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4521,"C[CH+:1][CH:2](OC1=CC=CC=C1)[H:3]|((2, 3), 1)"
train,pmechdb_split_0,0,1148,"CCCC(C)OCC[S:1]C[CH2:2][Cl:3].CCCC(C)[OH2+].[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1104,"O[C:1](O)([NH2:2])[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3517,"C[CH+:1][O:2][Ti-]([Cl])([Cl])([Cl])[Cl]|(2, 1)"
train,pmechdb_split_0,0,9895,"CC1CCC(C)(C)[C+:1]1C.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,5972,"C(CC1=CC=CC=C1)#[C-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6,"CC(=O)C(NC1([OH:1])CCC2(O)C3CC4=C(C=CC=C4)C2(CCN3C)C1)C(=O)N(CC1=CC=CC=C1)C(C)C.CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9492,"C#CC=CCC1OC(CC)C=CC=C[CH:1]1[O:2][P+:3](CCCCCCCC)(CCCCCCCC)CCCCCCCC.ClC(Cl)Cl.[Cl-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,10095,"CCCO[C:1](CCC)=[O+:2][Na].[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
